US07994176B2
3-(4,4-Difluoro-piperidin-1-yl)-pyrrolidin-2-one
Treat a 0° C. mixture of 3-cyano-2-(4,4-difluoro-piperidin-1-yl)-propionic acid methyl ester (3.74 g, 16.1 mmol) and cobalt (II) chloride hexahydrate (1.92 g, 8.07 mmol) in THF (50 mL) and water (25 mL) portion-wise with sodium borohydride (3.05 g, 80.6 mmol) and warm to room temperature and stir for 2 days under N2. Treat the reaction with 28% ammonium hydroxide (2 mL) and filter through hyflo. Remove the solvent from the filtrate in vacuo and dilute the residue with minimal water and brine and extract three times with 3:1 chloroform:isopropanol. Dry the organic layer with Na2SO4 and remove the solvent in vacuo to afford crude product. Purify on silica with a 0 to 10% methanol in CH2Cl2 gradient to afford 1.53 g (46%) of the titled product. Rf=0.43 (9/1 CH2Cl2/methanol, I2 stain). ES MS (m/z): 205 (M+).

reactant | 3-cyano-2-(4,4-difluoro-piperidin-1-yl)-propionic acid methyl ester | 16.1 mmol, 3.74 g | COC(C(CC#N)N1CCC(CC1)(F)F)=O | C10H14F2N2O2
reactant | sodium borohydride | 80.6 mmol, 3.05 g | [BH4-].[Na+]
reactant | ammonium hydroxide | 2 mL | [OH-].[NH4+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | 25 mL | O | H2O
catalyst | cobalt (II) chloride hexahydrate | 8.07 mmol, 1.92 g | O.O.O.O.O.O.[Co](Cl)Cl
product | 3-(4,4-Difluoro-piperidin-1-yl)-pyrrolidin-2-one | 1.53 g, 46% | FC1(CCN(CC1)C1C(NCC1)=O)F | C9H14F2N2O
